US06545009B1
In the same manner as in Example 1, 4-chlorobenzamide was reacted with ethyl 4-bromoacetylbenzoate to obtain ethyl 4-[2-(4-chlorophenyl)-4-oxazolyl)benzoate. The product was recrystallized from ethanol. Yield: 49%. Pale yellow prisms. Melting Point: 153 to 154° C.

reactant | 4-chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | ethyl 4-bromoacetylbenzoate | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
product | ethyl 4-[2-(4-chlorophenyl)-4-oxazolyl)benzoate | Yield: 49% | ClC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(C(=O)OCC)C=C1 | C18H14ClNO3
